US05455273
g) trans-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]-N-methyl-N-(1,2,3,4-tetrahydronaphthalene-2-carbonyl)-cyclohexylamine
from trans-4-[4-(3-hydroxypropyl)methylaminomethyl-phenyl]-N-methylcyclohexylamine and 1,2,3,4-tetrahydronaphthalene-2-carboxylic acid chloride. Melting point: 93°-95° C.

reactant | trans-4-[4-(3-hydroxypropyl)methylaminomethyl-phenyl]-N-methylcyclohexylamine | OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C18H30N2O
reactant | 1,2,3,4-tetrahydronaphthalene-2-carboxylic acid chloride | C1C(CCC2=CC=CC=C12)C(=O)Cl | C11H11ClO
product | trans-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]-N-methyl-N-(1,2,3,4-tetrahydronaphthalene-2-carbonyl)-cyclohexylamine | OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(=O)C1CC2=CC=CC=C2CC1)C)CNC | C29H40N2O2
